US07064139B2
Preparation of 2-[(Phenylmethyl)thio]-3-pyridinol (Compound 140)
To a mixture of 10.0 g of 2-mercapto-3-pyridinol, 11.0 g of potassium carbonate and 100 mL of 2-butanone was added dropwise with stirring, 13.3 g of benzyl bromide. After stirring at 22° C. for two hours, the mixture was heated to reflux for thirty minutes. The reaction mixture was concentrated under reduced pressure, the residue treated with water, and the mixture brought to pH 6 by the addition of acetic acid. The crude product was filtered and recrystallized from toluene to give 11.1 g of the title compound as a grey crystalline solid, mp 103–104° C. The structure of the product was confirmed by its 1H nmr and mass spectra.

reactant | 2-mercapto-3-pyridinol | 10.0 g | SC1=NC=CC=C1O | C5H5NOS
reactant | potassium carbonate | 11.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 13.3 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | 2-butanone | 100 mL | CC(CC)=O | C4H8O
product | 2-[(Phenylmethyl)thio]-3-pyridinol | 11.1 g | C1(=CC=CC=C1)CSC1=NC=CC=C1O | C12H11NOS
